US07579451B2
Step E: N-Benzoyl-2′-O-methyl-5-methylcytidine
To a solution of 2′-O-methyl-5-methylcytidine (4.0 g, 14.75 mmol) in dry DMF (25 mL) was added benzoic anhydride (3.34 g, 14.75 mmol) and stirred at room temperature overnight. Another portion of Bz2O (520 mg) was added and stirred for total of 20 h. The reaction mixture was quenched with water and concentrated to a crude residue which was co-evaporated with water (3×20 mL). Crystallized with toluene to give a pure title compound (4.21 g, 76%) as a white solid. 1H-NMR (DMSO-d6, 400 MHz): δ 13.0 (br, 1H, NH), 8.20 (s, 2H, ArH), 7.60-7.40 (m, 4H, H-6, ArH), 5.80 (d, 1H), 5.35 (t, 1H), 5.20 (d, 1H), 4.05 (d, 1H), 4.0-3.80 (m, 2H), 3.70 (dd, 1H, H-5a), 3.60 (dd, 1H, H-5b), 3.30 (s, 3H, OCH3), 2.00 (s, 3H, 5-CH3).

reactant | 2′-O-methyl-5-methylcytidine | 14.75 mmol, 4.0 g | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C(=C1)C | C11H17N3O5
reactant | benzoic anhydride | 14.75 mmol, 3.34 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | Bz2O | 520 mg | O(C(=O)C1=CC=CC=C1)C(=O)C1=CC=CC=C1 | C14H10O3
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-Benzoyl-2′-O-methyl-5-methylcytidine | 4.21 g, 76% | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OC)[C@H](O)[C@@H](CO)O2)C=C1C)=O | C18H21N3O6
